************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: SRAM_ARRAY_BACKUP
* View Name:     schematic
* Netlisted on:  Jul  9 17:15:47 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!

*.PIN gnd!

************************************************************************
* Library Name: VEDANT
* Cell Name:    SRAM
* View Name:    schematic
************************************************************************

.SUBCKT SRAM BL BLB VDD VSS WL
*.PININFO BL:B BLB:B VDD:B VSS:B WL:B
MM4 BLB WL net2 VSS N W=0.22 L=0.18 m=1
MM2 net2 net1 VSS VSS N W=0.44 L=0.18 m=1
MM0 net1 net2 VSS VSS N W=0.44 L=0.18 m=1
MM3 net1 WL BL VSS N W=0.22 L=0.18 m=1
MM5 net2 net1 VDD VDD P W=0.22 L=0.18 m=1
MM1 net1 net2 VDD VDD P W=0.22 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    CMOS_INV
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_INV out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM1 out vin vss vss N W=0.42 L=0.18 m=1
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    Precharge_Circuit
* View Name:    schematic
************************************************************************

.SUBCKT Precharge_Circuit BL BLB PRE VDD VSS
*.PININFO VSS:I BL:B BLB:B PRE:B VDD:B
MM2 BL net1 BLB VDD P W=0.42 L=0.18 m=1
MM1 VDD net1 BL VDD P W=0.42 L=0.18 m=1
MM0 BLB net1 VDD VDD P W=0.42 L=0.18 m=1
XI0 net1 VDD PRE VSS / CMOS_INV
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    SenseAmplifier
* View Name:    schematic
************************************************************************

.SUBCKT SenseAmplifier BL BLB SE VDD VOUT VSS
*.PININFO VOUT:O BL:B BLB:B SE:B VDD:B VSS:B
MM1 VOUT net2 VDD VDD P W=0.42 L=0.18 m=1
MM0 net2 net2 VDD VDD P W=0.42 L=0.18 m=1
MM4 net3 SE VSS VSS N W=0.42 L=0.18 m=1
MM3 net2 BL net3 VSS N W=0.42 L=0.18 m=1
MM2 VOUT BLB net3 VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    ColumnMux
* View Name:    schematic
************************************************************************

.SUBCKT ColumnMux BL BLB SA_BL SA_BLB VDD VSS WD_BL WD_BLB YSR
*.PININFO VDD:I VSS:I YSR:I SA_BL:O SA_BLB:O BL:B BLB:B WD_BL:B WD_BLB:B
MM3 BLB YSR WD_BLB VSS N W=0.42 L=0.18 m=1
MM2 WD_BL YSR BL VSS N W=0.42 L=0.18 m=1
MM1 SA_BLB YSR_BAR BLB VSS N W=0.42 L=0.18 m=1
MM0 BL YSR_BAR SA_BL VSS N W=0.42 L=0.18 m=1
MM7 BLB YSR_BAR WD_BLB VDD P W=0.42 L=0.18 m=1
MM6 WD_BL YSR_BAR BL VDD P W=0.42 L=0.18 m=1
MM5 SA_BLB YSR BLB VDD P W=0.42 L=0.18 m=1
MM4 BL YSR SA_BL VDD P W=0.42 L=0.18 m=1
XI0 YSR_BAR VDD YSR VSS / CMOS_INV
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    Write_Driver
* View Name:    schematic
************************************************************************

.SUBCKT Write_Driver BL BLB Din VDD VSS
*.PININFO Din:I VDD:I VSS:I BL:O BLB:O
XI2 net1 VDD Din VSS / CMOS_INV
XI3 BLB VDD Din VSS / CMOS_INV
XI0 BL VDD net1 VSS / CMOS_INV
.ENDS

************************************************************************
* Library Name: SAMPLE
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
MM0 Y C VDD VDD P W=0.42 L=0.18 m=1
MM1 Y B VDD VDD P W=0.42 L=0.18 m=1
MM4 Y A VDD VDD P W=0.42 L=0.18 m=1
MM2 Y A net25 VSS N W=0.42 L=0.18 m=1
MM3 net25 B net24 VSS N W=0.42 L=0.18 m=1
MM5 net24 C VSS VSS N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: SAMPLE
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
MM1 out vin vss vss N W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: SAMPLE
* Cell Name:    3_8_DECODER
* View Name:    schematic
************************************************************************

.SUBCKT 3_8_DECODER A B C VDD VSS Y0 Y1 Y2 Y3 Y4 Y5 Y6 Y7
*.PININFO A:I B:I C:I Y0:O Y1:O Y2:O Y3:O Y4:O Y5:O Y6:O Y7:O VDD:B VSS:B
XI21 A B C VDD VSS net4 / NAND
XI20 A net13 net14 VDD VSS net9 / NAND
XI19 A net13 C VDD VSS net10 / NAND
XI18 A B net14 VDD VSS net11 / NAND
XI17 net12 B C VDD VSS net8 / NAND
XI16 net12 B net14 VDD VSS net7 / NAND
XI15 net12 net13 C VDD VSS net6 / NAND
XI14 net12 net13 net14 VDD VSS net5 / NAND
XI13 net14 VDD C VSS / INVERTER
XI12 net13 VDD B VSS / INVERTER
XI11 net12 VDD A VSS / INVERTER
XI29 Y6 VDD net11 VSS / INVERTER
XI28 Y5 VDD net10 VSS / INVERTER
XI27 Y4 VDD net9 VSS / INVERTER
XI26 Y3 VDD net8 VSS / INVERTER
XI25 Y2 VDD net7 VSS / INVERTER
XI24 Y1 VDD net6 VSS / INVERTER
XI23 Y0 VDD net5 VSS / INVERTER
XI30 Y7 VDD net4 VSS / INVERTER
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    SRAM_ARRAY_BACKUP
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_ARRAY_BACKUP A B BBL3 BL0 BL1 BL2 BL3 BL4 BL5 BL6 BL7 BLB0 BLB1 
+ BLB2 BLB3 BLB4 BLB5 BLB6 BLB7 C D0 D1 D2 D3 D4 D5 D6 D7 PRE SE VDD VSS WL0 
+ WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL_EN YSR out0 out1 out2 out3 out4 out5 out6 out7
*.PININFO A:I B:I C:I D0:I D1:I D2:I D3:I D4:I D5:I D6:I D7:I out0:O out1:O 
*.PININFO out2:O out3:O out4:O out5:O out6:O out7:O BBL3:B BL0:B BL1:B BL2:B 
*.PININFO BL3:B BL4:B BL5:B BL6:B BL7:B BLB0:B BLB1:B BLB2:B BLB3:B BLB4:B 
*.PININFO BLB5:B BLB6:B BLB7:B PRE:B SE:B VDD:B VSS:B WL0:B WL1:B WL2:B WL3:B 
*.PININFO WL4:B WL5:B WL6:B WL7:B WL_EN:B YSR:B
XI143 BL7 BLB7 VDD VSS WL7 / SRAM
XI145 BL0 BLB0 VDD VSS WL6 / SRAM
XI146 BL0 BLB0 VDD VSS WL4 / SRAM
XI144 BL0 BLB0 VDD VSS WL5 / SRAM
XI116 BL4 BLB4 VDD VSS WL1 / SRAM
XI109 BL7 BLB7 VDD VSS WL0 / SRAM
XI104 BL1 BLB1 VDD VSS WL0 / SRAM
XI117 BL1 BLB1 VDD VSS WL1 / SRAM
XI149 BL1 BLB1 VDD VSS WL4 / SRAM
XI147 BL1 BLB1 VDD VSS WL5 / SRAM
XI148 BL1 BLB1 VDD VSS WL6 / SRAM
XI107 BL4 BLB4 VDD VSS WL0 / SRAM
XI112 BL0 BLB0 VDD VSS WL1 / SRAM
XI114 BL6 BLB6 VDD VSS WL1 / SRAM
XI119 BL3 BLB3 VDD VSS WL1 / SRAM
XI121 BL0 BLB0 VDD VSS WL2 / SRAM
XI156 BL4 BLB4 VDD VSS WL5 / SRAM
XI115 BL5 BLB5 VDD VSS WL1 / SRAM
XI110 BL5 BLB5 VDD VSS WL0 / SRAM
XI113 BL7 BLB7 VDD VSS WL1 / SRAM
XI108 BL6 BLB6 VDD VSS WL0 / SRAM
XI105 BL2 BLB2 VDD VSS WL0 / SRAM
XI151 BL2 BLB2 VDD VSS WL6 / SRAM
XI152 BL2 BLB2 VDD VSS WL4 / SRAM
XI120 BL0 BLB0 VDD VSS WL3 / SRAM
XI118 BL2 BLB2 VDD VSS WL1 / SRAM
XI157 BL4 BLB4 VDD VSS WL6 / SRAM
XI158 BL4 BLB4 VDD VSS WL4 / SRAM
XI155 BL3 BLB3 VDD VSS WL4 / SRAM
XI154 BL3 BLB3 VDD VSS WL6 / SRAM
XI153 BL3 BLB3 VDD VSS WL5 / SRAM
XI106 BL3 BLB3 VDD VSS WL0 / SRAM
XI111 BL0 BLB0 VDD VSS WL0 / SRAM
XI150 BL2 BLB2 VDD VSS WL5 / SRAM
XI159 BL5 BLB5 VDD VSS WL5 / SRAM
XI160 BL5 BLB5 VDD VSS WL6 / SRAM
XI162 BL6 BLB6 VDD VSS WL5 / SRAM
XI130 BL5 BLB5 VDD VSS WL3 / SRAM
XI163 BL6 BLB6 VDD VSS WL6 / SRAM
XI164 BL6 BLB6 VDD VSS WL4 / SRAM
XI165 BL7 BLB7 VDD VSS WL5 / SRAM
XI126 BL3 BLB3 VDD VSS WL3 / SRAM
XI166 BL7 BLB7 VDD VSS WL6 / SRAM
XI161 BL5 BLB5 VDD VSS WL4 / SRAM
XI135 BL7 BLB7 VDD VSS WL2 / SRAM
XI133 BL6 BLB6 VDD VSS WL2 / SRAM
XI129 BL4 BLB4 VDD VSS WL2 / SRAM
XI125 BL2 BLB2 VDD VSS WL2 / SRAM
XI167 BL7 BLB7 VDD VSS WL4 / SRAM
XI123 BL1 BLB1 VDD VSS WL2 / SRAM
XI139 BL3 BLB3 VDD VSS WL7 / SRAM
XI142 BL6 BLB6 VDD VSS WL7 / SRAM
XI140 BL4 BLB4 VDD VSS WL7 / SRAM
XI141 BL5 BLB5 VDD VSS WL7 / SRAM
XI137 BL1 BLB1 VDD VSS WL7 / SRAM
XI138 BL2 BLB2 VDD VSS WL7 / SRAM
XI136 BL0 BLB0 VDD VSS WL7 / SRAM
XI134 BL7 BLB7 VDD VSS WL3 / SRAM
XI132 BL6 BLB6 VDD VSS WL3 / SRAM
XI128 BL4 BLB4 VDD VSS WL3 / SRAM
XI124 BL2 BLB2 VDD VSS WL3 / SRAM
XI122 BL1 BLB1 VDD VSS WL3 / SRAM
XI131 BL5 BLB5 VDD VSS WL2 / SRAM
XI127 BL3 BLB3 VDD VSS WL2 / SRAM
XI72 BL6 BLB6 PRE VDD VSS / Precharge_Circuit
XI71 BL7 BLB7 PRE VDD VSS / Precharge_Circuit
XI70 BL4 BLB4 PRE VSS VDD / Precharge_Circuit
XI69 BL5 BLB5 PRE VDD VSS / Precharge_Circuit
XI68 BL2 BLB2 PRE VDD VSS / Precharge_Circuit
XI67 BL3 BBL3 PRE VDD VSS / Precharge_Circuit
XI65 BL0 BLB0 PRE VDD VSS / Precharge_Circuit
XI66 BL1 BLB1 PRE VDD VSS / Precharge_Circuit
XI80 net45 net44 SE VDD out7 VSS / SenseAmplifier
XI79 net39 net38 SE VDD out6 VSS / SenseAmplifier
XI78 net33 net32 SE VDD out5 VSS / SenseAmplifier
XI77 net27 net26 SE VDD out4 VSS / SenseAmplifier
XI169 net21 net20 SE VDD out3 VSS / SenseAmplifier
XI75 net15 net14 SE VDD out2 VSS / SenseAmplifier
XI74 net9 net8 SE VDD out1 VSS / SenseAmplifier
XI73 net3 net2 SE VDD out0 VSS / SenseAmplifier
XI88 BL7 BLB7 net45 net44 VDD VSS net99 net100 YSR / ColumnMux
XI87 BL6 BLB6 net39 net38 VDD VSS net92 net93 YSR / ColumnMux
XI86 BL5 BLB5 net33 net32 VDD VSS net85 net86 YSR / ColumnMux
XI85 BL4 BLB4 net27 net26 VDD VSS net78 net79 YSR / ColumnMux
XI84 BL3 BLB3 net21 net20 VDD VSS net71 net72 YSR / ColumnMux
XI83 BL2 BLB2 net15 net14 VDD VSS net64 net65 YSR / ColumnMux
XI82 BL1 BLB1 net9 net8 VDD VSS net57 net58 YSR / ColumnMux
XI81 BL0 BLB0 net3 net2 VDD VSS net50 net51 YSR / ColumnMux
XI96 net99 net100 D7 VDD VSS / Write_Driver
XI95 net92 net93 D6 VDD VSS / Write_Driver
XI94 net85 net86 D5 VDD VSS / Write_Driver
XI93 net78 net79 D4 VDD VSS / Write_Driver
XI92 net71 net72 D3 VDD VSS / Write_Driver
XI91 net64 net65 D2 VDD VSS / Write_Driver
XI90 net57 net58 D1 VDD VSS / Write_Driver
XI89 net50 net51 D0 VDD VSS / Write_Driver
XI64 A B C WL_EN VSS WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 / 3_8_DECODER
.ENDS

